US07071182B2
{[1-(2-morpholin-4-yl-ethyl)-1H-indazol-4-ylcarbamoyl]-methyl}-carbamic acid tert-butyl ester
A mixture of 1-(2-morpholin-1-yl-ethyl)-1H-indazol-4-ylamine (0.150 g, 0.609 mmol), tert-butoxycarbonylamino-acetic acid (0.109 g, 0.548 mmol), ethyldimethylpropylcarbodiimide hydrochloride (0.126 g, 0.660 mmol), N-hydroxybenzotriazole (0.0884 g, 0.657 mmol) and N-methyl morpholine (0.150 mL, 1.33 mmol) in 3.6 mL of DMF was stirred at room temperature for 6 hours. The mixture was concentrated under reduced pressure and the residue purified by flash chromatography to provide the title compound. 1H NMR (300 MHz, DMSO-D6) δ ppm 1.41 (s, 9 H), 2.41 (m, 4 H), 2.75 (t, J=6.61 Hz, 2 H), 3.49 (m, 4 H), 3.86 (d, J=6.10 Hz, 2 H), 4.49 (t, J=6.61 Hz, 2 H), 7.08 (s, 1 H), 7.33 (m, 2 H), 7.64 (m, 1 H), 8.24 (s, 1 H), 9.97 (s, 1 H); MS (DCI/NH3) m/z 404 [M+H]+.

reactant | tert-butoxycarbonylamino-acetic acid | 0.548 mmol, 0.109 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | ethyldimethylpropylcarbodiimide hydrochloride | 0.660 mmol, 0.126 g | Cl.C(C)N=C=NC(CC)(C)C
reactant | N-hydroxybenzotriazole | 0.657 mmol, 0.0884 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methyl morpholine | 1.33 mmol, 0.150 mL | CN1CCOCC1 | C5H11NO
reactant | DMF | 3.6 mL | CN(C)C=O | C3H7NO
product | {[1-(2-morpholin-4-yl-ethyl)-1H-indazol-4-ylcarbamoyl]-methyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC(NC1=C2C=NN(C2=CC=C1)CCN1CCOCC1)=O)=O | C20H29N5O4
